US07314936B2
A mixture of 5-chloromethyl-indole-1-carboxylic acid tert-butyl ester (0.82 g, 3.10 mmol, 1.0 eq.), cyclohexyl mercaptan (0.53 mL, 1.4 eq.) and K2CO3 (0.90 g, 2.0 eq.) in DMF (6 mL) was heated at 40° C. until reaction completed. The reaction mixture was cooled to room temperature, diluted with sat. NH4Cl and extracted with diethyl ether. The organic extracts were dried over MgSO4, filtered and concentrated. The resulting mixture was purified by chromatography (5% EtOAc/hexanes) to give 5-cyclohexylsulfanylmethyl-indole-1-carboxylic acid tert-butyl ester (0.79 g, 74%).

reactant | 5-chloromethyl-indole-1-carboxylic acid tert-butyl ester | 3.10 mmol, 0.82 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CCl | C14H16ClNO2
reactant | cyclohexyl mercaptan | 0.53 mL, 1.4 eq. | C1(CCCCC1)S | C6H12S
reactant | K2CO3 | 0.90 g, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 5-cyclohexylsulfanylmethyl-indole-1-carboxylic acid tert-butyl ester | 0.79 g, 74% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CSC1CCCCC1 | C20H27NO2S
